US04885300
1-(1-Chloro-2-hydroxy-3-propanyl)-4-[bis(4-fluorophenyl)methyl]piperazine Monohydrate
[Bis(4-fluorophenyl)methyl]piperazine, (14.4 g, 0.05 mol) in ethanol (200 mL) was added dropwise to epichlorohydrin (3.5 mL, 0.05 mol) in ethanol (12 mL) at 0° C. with NaHCO3 anhydrous (4.2 g, 0.05 mol) over 45 min under N2. The ice bath was removed and the mixture was allowed to come to room temperature. After 18 h the NaHCO3 was removed by filtration via a sintered glass funnel and the ethanol in the filtrate was removed in vacuo to give the crude product (21.3 g). Flash chromatography over silica gel using 2.0% methanol: methylene chloride gave pure product (10.05 g, 52.9%) as an amber oil. DCI/MS (M+1) 381. 400 MHz 1H NMR (CDCl3) δ: 7.3 (m, 4H), 6.95 (m, 4H), 4.2 (s, 1H), 3.95 (m, 1H), 3.55 (m, 2 H), 2.7 (m, 2H), 2.5 (m, 4H), 2.4 (m, 4H).

reactant | [Bis(4-fluorophenyl)methyl]piperazine | 0.05 mol, 14.4 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | epichlorohydrin | 0.05 mol, 3.5 mL | C(Cl)C1CO1 | C3H5ClO
reactant | NaHCO3 | 0.05 mol, 4.2 g | C(=O)(O)[O-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-[bis(4-fluorophenyl)methyl]piperazine Monohydrate | 10.05 g, 52.9% | O.ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | InChI=1S/C20H23ClF2N2O.H2O/c21-13-19(26)14-24-9-11-25(12-10-24)20(15-1-5-17(22)6-2-15)16-3-7-18(23)8-4-16;/h1-8,19-20,26H,9-14H2;1H2
